US07598423B2
Synthesis of 1-[4-(4-{amino-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone
A mixture of 1-[4-(4-{azido-[3-(2H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone (340 mg, 0.703 mmol), triphenylphosphine (195 mg, 0.74 mmol), water (0.5 mL), and tetrahydrofuran (5 mL) is stirred at room temperature 48 hr. The mixture is filtered, the cake is washed with tetrahydrofuran (2 mL) and dried under vacuum to give the title compound 169 mg, 52%, as a white solid. 1H NMR (DMSO-d6) δ 12.86 (s, 1H), 8.9 (bs, 2H), 8.18 (s, 1H), 7.98 (d, 1H), 7.80 (d, 1H), 7.35-7.58 (m, 6H), 6.72 (d, 1H), 5.74 (s, 1H), 5.28 (s, 2H), 2.58-2.62 (m, 5H), 1.46-1.54 (m, 2H), 0.88 (t, 3H). LCMS M−1 456.

reactant | 1-[4-(4-{azido-[3-(2H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 0.703 mmol, 340 mg | N(=[N+]=[N-])C(C1=CC=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=C1)C1=CC(=CC=C1)C=1N=NNN1 | C26H25N7O3
reactant | triphenylphosphine | 0.74 mmol, 195 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 0.5 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-[4-(4-{amino-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 169 mg, 52% | NC(C1=CC=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=C1)C1=CC(=CC=C1)C1=NN=NN1 | C26H27N5O3
